US04203988
B. 2-(2-Diisopropylaminoethylamino)-4-methoxypyridine-N-oxide
2-(2-Diisopropylaminoethylamino)-4-nitropyridine-N-oxide (10.0 g., 35.5 mmole) is added to a solution of sodium methoxide (3.0 g., 55 mmole) in dry methanol (100 ml.) and refluxed for 4 hours. The solvent is evaporated and the residue dissolved in chloroform, washed with water, dried over sodium sulfate and evaporated to give oily product.

reactant | 2-(2-Diisopropylaminoethylamino)-4-nitropyridine-N-oxide | 35.5 mmole, 10.0 g | C(C)(C)N(CCNC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-])C(C)C | C13H22N4O3
reactant | sodium methoxide | 55 mmole, 3.0 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-(2-Diisopropylaminoethylamino)-4-methoxypyridine-N-oxide | C(C)(C)N(CCNC1=[N+](C=CC(=C1)OC)[O-])C(C)C | C14H25N3O2
